US08669246B2
Benzyl [(3-hydroxypyrrolidin-1-yl)sulfonyl]carbamate (2.55 g) was added to MeOH, and subsequently, 10% palladium carbon (657 mg, 55% wet) was added thereto, followed by stirring at a normal temperature/a normal pressure for about 3 hours under a hydrogen atmosphere. The catalyst was collected by filtration through Celite, and the filtrate was concentrated under reduced pressure to obtain 3-hydroxypyrrolidin-1-sulfonamide (1.4 g) as a colorless oily substance.

reactant | Benzyl [(3-hydroxypyrrolidin-1-yl)sulfonyl]carbamate | 2.55 g | OC1CN(CC1)S(=O)(=O)NC(OCC1=CC=CC=C1)=O | C12H16N2O5S
catalyst | palladium carbon | 657 mg | [C].[Pd]
solvent | MeOH | CO | CH4O
product | 3-hydroxypyrrolidin-1-sulfonamide | 1.4 g | OC1CN(CC1)S(=O)(=O)N | C4H10N2O3S
